US08124628B2
Step A: Preparation of 2-(4-iodophenyl)-3-methylbutan-2-ol (i-3a)
n-Butyllithium (37.0 mL of a 2.5 M solution in hexanes, 92.8 mmol) was added to a stirred solution of 1,4-diiodobenzene (30.0 g, 90.9 mmol) in THF (200 mL) at −78° C. After approximately 20 min, 3-methyl-2-butanone (10.2 mL, 95.5 mmol) was added, and the resulting mixture was allowed to stir at −78° C. for about 1 h. The reaction mixture was poured into aqueous 1N HCl and extracted twice with diethyl ether. The combined organic extracts were washed water, brine, dried (magnesium sulfate) and concentrated in vacuo to afford the title compound i-3a. m/z (ES) 273 (M-OH)+. 1HNMR (500 MHz, CDCl3): δ 7.67 (d, 2H, J=8.5 Hz), 7.20 (d, 2H, J=8.7 Hz), 2.00 (m, 1H, J=6.7 Hz), 1.52 (s, 3H), 0.92 (d, 3H, J=6.7 Hz), 0.81 (d, 3H, J=6.9 Hz).

reactant | n-Butyllithium | C(CCC)[Li]
reactant | 1,4-diiodobenzene | 90.9 mmol, 30.0 g | IC1=CC=C(C=C1)I | C6H4I2
reactant | 3-methyl-2-butanone | 95.5 mmol, 10.2 mL | CC(C(C)=O)C | C5H10O
reactant | HCl | 1N | Cl | ClH
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 2-(4-iodophenyl)-3-methylbutan-2-ol | IC1=CC=C(C=C1)C(C)(C(C)C)O | C11H15IO
